US05637554
In succession at 25° C. and with introduction of nitrogen, 192 g (1 mol) of ethyl benzoyl acetate in 20 min and a solution of 84 g (1.2 mol) of crotonaldehyde in 100 ml of dioxane were added dropwise with stirring in the course of 30 min to a suspension of 2 g of sodium hydride in dioxane. After stirring for 10 hours, the reaction mixture was treated with 800 ml of acetic acid and then with 245 g (3.5 mol) of hydroxylamine hydrochloride. After stirring at 110° C. for 2 hours, the mixture was cooled to 20° C., stirred into 1 kg of ice and rendered alkaline with solid K2CO3. It was then extracted with ethyl acetate, the combined extracts were extracted with 2N HCl solution and the combined aqueous extracts were rendered alkaline with solid K2CO3 and again extracted three times with 300 ml of ethyl acetate each time. After concentrating the combined organic extracts, 62 g of ethyl 2-phenyl-4-methylnicotinate (88.5% of theory) were obtained as a yellowish oil, nD23 =1.5724.

reactant | ethyl benzoyl acetate | 1 mol, 192 g | CCOC(=O)CC(=O)C1=CC=CC=C1 | C11H12O3
reactant | crotonaldehyde | 1.2 mol, 84 g | C(\C=C\C)=O | C4H6O
reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | hydroxylamine hydrochloride | 3.5 mol, 245 g | Cl.NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-phenyl-4-methylnicotinate | 62 g, 88.5% | C1(=CC=CC=C1)C1=C(C(=O)OCC)C(=CC=N1)C | C15H15NO2
